### PR TITLE
[Merged by Bors] - feat(ContinuousFunctionalCalculus): add integral representation for `x ↦ x ^ p` for `p ∈ (1, 2)`

### PR DESCRIPTION
**Pull request by dupuisf**
This PR adds an integral representation for the function `x ↦ x ^ p` for `p ∈ (1, 2)`. We already have an analogous representation for `p ∈ (0, 1)`. This will later be used to show that this function is operator convex in that range.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean [hunk 1]
```diff
@@ -340,6 +351,95 @@ lemma exists_measure_rpow_eq_integral (hp : p ∈ Ioo 0 1) :
...
+  · rw [rpowIntegrand₁₂_eq_mul_rpowIntegrand₀₁ hx ht']
+    refine mul_nonneg hx ?_
+    exact rpowIntegrand₀₁_nonneg (by grind) (by grind) hx
+  · have ht' : t = 0 := by grind
+    simp [rpowIntegrand₁₂, ht', zero_rpow (by grind : p - 1 ≠ 0)]
+
+lemma rpowIntegrand₁₂_zero (ht : 0 < t) :
+    rpowIntegrand₁₂ p t 0 = 0 := by grind [rpowIntegrand₁₂]
+
+lemma continuousOn_rpowIntegrand₁₂_uncurry (hp : p ∈ Ioi 1) (s : Set ℝ) (hs : s ⊆ Ici 0) :
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean:382]: I'm not sure if this is particularly useful, so you can omit it if you think not.
```suggestion
@[fun_prop]
lemma continuousOn_rpowIntegrand₁₂_uncurry (hp : p ∈ Ioi 1) (s : Set ℝ) (hs : s ⊆ Ici 0) :
```

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean [hunk 2]
```diff
@@ -340,6 +351,95 @@ lemma exists_measure_rpow_eq_integral (hp : p ∈ Ioo 0 1) :
...
+
+lemma monotoneOn_rpowIntegrand₁₂ (hp : p ∈ Ioo 1 2) (ht : 0 < t) :
+    MonotoneOn (rpowIntegrand₁₂ p t) (Ici 0) := by
+  refine MonotoneOn.congr (f₁ := fun x => x * rpowIntegrand₀₁ (p - 1) t x) ?_ ?_
+  · refine MonotoneOn.mul ?_ ?_ (by grind) ?_
+    · exact Monotone.monotoneOn (fun ⦃a b⦄ a => a) (Ici 0)
+    · grind [rpowIntegrand₀₁_monotoneOn]
+    · grind [rpowIntegrand₀₁_nonneg]
+  · intro x hx
+    rw [rpowIntegrand₁₂_eq_mul_rpowIntegrand₀₁ hx ht]
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean]:
```suggestion
  refine MonotoneOn.congr ?_ fun x hx ↦ (rpowIntegrand₁₂_eq_mul_rpowIntegrand₀₁ hx ht).symm
  apply monotoneOn_id.mul <;> grind [rpowIntegrand₀₁_monotoneOn, rpowIntegrand₀₁_nonneg]
```

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean [hunk 3]
```diff
@@ -340,6 +351,95 @@ lemma exists_measure_rpow_eq_integral (hp : p ∈ Ioo 0 1) :
...
+/-- The integral representation of the function `x ↦ x^p` (where `p ∈ (1, 2)`) . -/
+lemma exists_measure_rpow_eq_integral_rpowIntegrand₁₂ (hp : p ∈ Ioo 1 2) :
+    ∃ μ : Measure ℝ, ∀ x ∈ Ici 0,
+      (IntegrableOn (fun t => rpowIntegrand₁₂ p t x) (Ioi 0) μ)
+      ∧ x ^ p = ∫ t in Ioi 0, rpowIntegrand₁₂ p t x ∂μ := by
+  let C : ℝ≥0 :=
+    { val := (∫ t in Ioi 0, rpowIntegrand₀₁ (p - 1) t 1)⁻¹
+      property := by
+        rw [inv_nonneg]
+        exact le_of_lt <| integral_rpowIntegrand₀₁_one_pos (by grind) }
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean]: Can you please merge master and then use `NNReal.mk`? This should allow you to do `simp [C, NNReal.smul_def]` instead of `rfl` for the end of the proof (I think).

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean [hunk 4]
```diff
@@ -417,6 +517,55 @@ lemma exists_measure_nnrpow_eq_integral_cfcₙ_rpowIntegrand₀₁ [CompleteSpac
     _ = _ := cfcₙ_setIntegral measurableSet_Ioi _ bound a hf hmapzero hbound
                 hbound_finite_integral ha.isSelfAdjoint
 
+-- Couldn't find `IsScalarTower ℝ≥0 A A`
+set_option backward.isDefEq.respectTransparency false in
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean]: This doesn't seem to be a problem? (anymore?) 🤷 
```suggestion
```

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean [hunk 5]
```diff
@@ -417,6 +517,55 @@ lemma exists_measure_nnrpow_eq_integral_cfcₙ_rpowIntegrand₀₁ [CompleteSpac
...
+    calc a ^ p = cfcₙ (fun x => NNReal.nnrpow x p) a := by
+                rw [CFC.nnrpow_def]
+      _ = cfcₙ (fun r => ∫ t in Ioi 0, rpowIntegrand₁₂ p t r ∂μ) a := by
+                rw [cfcₙ_nnreal_eq_real ..]
+                refine cfcₙ_congr fun r hr => ?_
+                have hr' : 0 ≤ r := by grind
+                simp only [sup_of_le_left hr', NNReal.nnrpow_def, NNReal.coe_rpow, coe_toNNReal']
+                exact (hμ r hr').2
+      _ = _ := cfcₙ_setIntegral measurableSet_Ioi _ bound a hf hmapzero hbound
+                  hbound_finite_integral ha.isSelfAdjoint
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean]: I think this matches the style guide better, and I also like seeing all the expressions in a `calc` block.
```suggestion
  case integral => calc
      a ^ p = cfcₙ (fun x => NNReal.nnrpow x p) a := by
        rw [CFC.nnrpow_def]
      _ = cfcₙ (fun r => ∫ t in Ioi 0, rpowIntegrand₁₂ p t r ∂μ) a := by
        rw [cfcₙ_nnreal_eq_real ..]
        refine cfcₙ_congr fun r hr => ?_
        have hr' : 0 ≤ r := by grind
        simp only [sup_of_le_left hr', NNReal.nnrpow_def, NNReal.coe_rpow, coe_toNNReal']
        exact (hμ r hr').2
      _ = ∫ t in Ioi 0, cfcₙ (rpowIntegrand₁₂ p t) a ∂μ :=
        cfcₙ_setIntegral measurableSet_Ioi _ bound a hf hmapzero hbound
          hbound_finite_integral ha.isSelfAdjoint
```

**Review by j-loreaux — COMMENTED** [review]
bors d+

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean (hunk 1 above)
Comment (dupuisf) [reply Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean:382]: I'm not sure it's useful either, but it probably can't hurt either.
